2131-04-14 07:45:00 Physician Resident Progress Note
Chief Complaint: 65 year old woman with history of CLL now ~25 days s/p
   FCR intially presenting with febrile neutropenia found to have RLL
   infiltrate and neck pain now complicated by hypotension followed by
   hypoxia.
   24 Hour Events:
 BRONCHOSCOPY - At [**2131-4-13**] 04:00 PM
 CSF CULTURE - At [**2131-4-13**] 04:30 PM
 FEVER - 101.9
F - [**2131-4-14**] 06:00 AM
   -got [**Last Name (un) 1340**] for ? reactivation TB
   -got LP for ? PNA, no WBC, cefepime decreased to non-meningitis doses.
   -Febrile to 101.2 this am, re-cultured blood and urine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-4-13**] 08:45 PM
   Metronidazole - [**2131-4-14**] 02:10 AM
   Cefipime - [**2131-4-14**] 03:10 AM
   Voriconazole - [**2131-4-14**] 03:11 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2131-4-13**] 04:07 PM
   Midazolam (Versed) - [**2131-4-13**] 04:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-14**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 129 (98 - 129) bpm
   BP: 117/53(66) {78/41(52) - 127/76(84)} mmHg
   RR: 27 (17 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                    540 mL
                                                                  1,183 mL
   PO:
                                                                     50 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    703 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    600 mL
   Urine:
                                                                    200 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                    583 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: pleasant, sweat soaked, NAD
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), LLSB, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: No edema.
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, CN II-XII intact. upper and lower extremity
   strength intact
   Labs / Radiology
   52 K/uL
   9.9 g/dL
   94
   0.7
   18
   4.1
   11
   111
   138
   28.7 %
   1.6 K/uL
        [image002.jpg]   Ca 7.4 Mg 1.9 P 1.8
   PT 14.7 PTT 30.5 INR 1.3       ANC  560
   BAL fluid:
   WBC 0
   RBC  0   PMNs 0, Lymphs 44, Monos 23  Other  33
   Source: LP; 2
                                     CSF
                                  Chemistry
                                    Protein
                                     22
                                    Glucose
                                     57
   SOURCE: LP 4
     CSF
                                      WBC
                                      0
                                      RBC
                                      8
                                     Poly
                                      0
                                     Lymph
                                     84
                                     Mono
                                     16
                                      EOs
   Legionella urinary ag negative
   Cryptococcal serum and CSF antigen negative
   UA negative
   Urine and blood cultures pending
   No microorganisms on BAL sample
   AFP and viral pending.
                             [**2131-4-13**]  03:24 PM
                             [**2131-4-14**]  05:11 AM
   WBC
   1.8
   1.6
   Hct
   27.0
   28.7
   Plt
   67
   52
   Assessment and Plan
   65 year old woman with history of CLL now ~25 days s/p FCR intially
   presenting with febrile neutropenia found to have RLL infiltrate and
   neck pain now complicated by hypotension followed by hypoxia.
   #Febrile neutropenia.  Most likely source PNA given absence of other
   localizing findings besides new RLL lobar infiltrate.  So far no
   informative culture or gram stain data. Pt has history of partially
   treated extrapulmonary TB, lobar appearance of CXR not really
   suggestive of reactivated TB.
   -cover broadly for neutropenic CAP with vanc/cefepime/azithromycin with
   flagyl for anaerobes, voriconazole for funal coverage.  Peel back
   coverage if no GPCs on sputum from BAL.
   -follow up all cultures, call micro lab to ensure AFB smear for r/o TB
   being processed.
   -Tylenol prn fevers
   -continue neutropenic and negative pressure respiratory isolation for
   r/o TB.
   .
   #Hypoxia: likely related to underlying CAP now acutely exacerbated by
   fluid resusitation. Has resolved overnight, satting well on 2L NC.  CXR
   appears less fluid overloaded today.  Pulmonary edema likely from
   aggressive fluid rescusitation. No history of heart failure.
   -TTE on Monday
   -Caution with IVF, may bolus as needed but should go first to NIPPV if
   develops further hypoxia.
   # Hypotension: likely related to sepsis from unclear source. no
   evidence of blood loss or ischemic cause.  pericardial effusion with
   tamponade is possible given hx of TB but would be unlikely. currently
   lactate normal and normal mentation to perfusion adequate.
   - TTE as above
   - bolus IVF for decreased UOP, tachycardia or hypotension. Responded
   very well to 1L NS this am.  Would use LR in future as is becoming
   hyperchloremic.
   .
   3) Hx of Extra-pulmonary TB: patient completed only 6 months of therapy
   so would be at risk for relapse.  currently without other significant
   constitutional symptoms that had featured prominently before. would
   expect low probability for pulmonary TB.
   - continue airborne precautions for now pending AFB from bronch
   - ID recs
   -azithromycin instead of levo for atypical PNA coverage to avoid TB
   partial treatment.
   .
   4) Neck pain: patient developed pain and soreness after being in the
   hospital w/o other sign of meningitis except for fever.  would have low
   probability for meningitis but given immune suppressed status it would
   be difficult to entirely exclude.  alternatively could be benign muscle
   ache. LP yesterday, normal, no evidence of meningitis.
   - Reduce cevepime from meningitis to PNA doses.
   - tylenol, percocet prn pain.
   .
   5) CLL: ANC >500 so perhaps could be start of trend. would still be
   immune suppressed due to lymphocyte dysfunction.
   - BMT recs
   - follow
   - continue prophy: bactrim and acyclovir
   .
   6) Hypothyroidism: continue current dose
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:  adqeuate
   Lines:
   20 Gauge - [**2131-4-13**] 03:00 PM
   Prophylaxis:
   DVT: pneumaboots
   Stress ulcer: eating
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:call out to bmt later today if bp remains stable.

2131-04-14 09:29:00 Physician Attending Progress Note
Chief Complaint: febrile neutropenia, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2131-4-13**] 04:00 PM
 CSF CULTURE - At [**2131-4-13**] 04:30 PM
 FEVER - 101.9
F - [**2131-4-14**] 06:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-4-13**] 08:45 PM
   Metronidazole - [**2131-4-14**] 02:10 AM
   Cefipime - [**2131-4-14**] 03:10 AM
   Voriconazole - [**2131-4-14**] 03:11 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2131-4-13**] 04:07 PM
   Midazolam (Versed) - [**2131-4-13**] 04:07 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Flowsheet Data as of  [**2131-4-14**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.3
C (97.4
   HR: 119 (98 - 129) bpm
   BP: 102/58(67) {78/41(52) - 127/76(84)} mmHg
   RR: 14 (14 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                    540 mL
                                                                  1,871 mL
   PO:
                                                                     50 mL
                                                                    530 mL
   TF:
   IVF:
                                                                    490 mL
                                                                  1,341 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    600 mL
   Urine:
                                                                    200 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                  1,271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Gen: lying in bed, diaphoretic
   HEENT: dry oropharynx
   CV: tachy RRR
   Chest: coarse BS in right base, no wheezes
   Abd: soft nt
   Ext: 1+ edema
   Labs / Radiology
   9.9 g/dL
   52 K/uL
   94 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.1 mEq/L
   11 mg/dL
   111 mEq/L
   138 mEq/L
   28.7 %
   1.6 K/uL
        [image002.jpg]
                             [**2131-4-13**]  03:24 PM
                             [**2131-4-14**]  05:11 AM
   WBC
   1.8
   1.6
   Hct
   27.0
   28.7
   Plt
   67
   52
   Cr
   0.7
   Glucose
   94
   Other labs: PT / PTT / INR:14.7/30.5/1.3, Ca++:7.4 mg/dL, Mg++:1.9
   mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: ANC 560
   Microbiology: CSF: no org no PMN
   BAL no org no PMN
   Cultures pending
   Crypto Ag neg (serum and CSF)
   Flu pending
   Legionella neg
   CXR with RLL infiltrate interstitial
   Assessment and Plan
   65 year old woman with CLL s/p recent treatment, now neutropenic with
   fevers of unclear etiology and history notable for probable TB
   lymphadenitis which was treated for 6 months.
   Neutropenic Fever: multiple sources of concern in this neutropenic
   host. All cx have thus far been negative
   RLL PNA: BAL pending
   Hx of TB adenitis, Bal pending
   Meningitis: LP unrevealing
   - Bronch now to further eval RLL lesion:   (PCP, [**Name10 (NameIs) 2086**], [**Name11 (NameIs) 2087**], viral,
   bacterial clx)
   - Continue broad coverage at meningitic doses (Vanco and Cefepime)
   pending LP info as well as vori, azithro, and flagyl (given poor
   dentition and location of infiltrate)
   Hypoxemia PNA in the RLL, with volume overload.
   - supportive O2 for now
   - plan for NIPPV if needed
   Hypotension: fluid responsive, seems likely due to sepsis and
   hypovolemia at this point. Will alternate b/w NS and LR to prevent
   hyperchloremic met acidosis
   - Volume bolus to maintain MAP > 65 mmHg
   - Monitor renal function
   - Consider echo if hypotension persists despite fluid resuscitation.
   H/O TB lymphadenitis. [**Male First Name (un) **]
t suspect reactivation now.
   CLL: s/p recent treatment. Manage per BMT.
   Other issues per ICU Resident Admission Note
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-4-13**] 03:00 PM
   Prophylaxis:
   DVT: boots
   Communication:
   Code status: Full code
   Disposition :  ICU
   Total time spent:

2131-04-15 06:45:00 Physician Resident Progress Note
Chief Complaint: 65 year old woman with history of CLL now ~25 days s/p
   FCR intially presenting with febrile neutropenia found to have RLL
   infiltrate and neck pain now complicated by hypotension followed by
   hypoxia.
   24 Hour Events:
   - Repeat PA/Lat ordered as per radiology to best assess increase in
   size of mediastinum showed no change in widening as from prior PA/Lat
   - ID rec adding on cytology to LP and continuing broad coverage with
   vanc/flagyl/vori, and acyclovir/bactrim ppx
   - Micro: AFB prelim smear neg, but per micro lab, cannot dc precautions
   until concentrated smear completed on Monday
   - T 102 axillary at MN, given 1gm tylenol, bcx and ucx sent, cooled
   with icepacks/cooling blanket, 250cc NS bolus x3, ECG unchanged (sinus
   tach), lactate 1.0
   - Influenza DFA reordered as priors had been cancelled (x2)
   - T 102 axillary at MN with tachycardia to 120s, given 1gm tylenol, bcx
   and ucx sent, cooled with cooling blanket, 250cc NS bolus x2, ECG
   unchanged (sinus tach), lactate 1.0, tachycardia resolved with
   defervescence
   - Influenza DFA reordered as priors had been cancelled (x2)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-4-14**] 07:39 PM
   Voriconazole - [**2131-4-14**] 10:00 PM
   Cefipime - [**2131-4-15**] 02:00 AM
   Metronidazole - [**2131-4-15**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-15**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.2
C (97.2
   HR: 104 (87 - 126) bpm
   BP: 111/58(70) {83/46(59) - 118/68(80)} mmHg
   RR: 15 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,150 mL
                                                                  1,015 mL
   PO:
                                                                    830 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  3,320 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                      0 mL
   Urine:
                                                                  1,325 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,625 mL
                                                                  1,015 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases), clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: WWP
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   51 K/uL
   10.6 g/dL
   106 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   13 mg/dL
   109 mEq/L
   136 mEq/L
   30.1 %
   1.5 K/uL
        [image002.jpg]
   ANC 580
                             [**2131-4-13**]  03:24 PM
                             [**2131-4-14**]  05:11 AM
                             [**2131-4-15**]  12:37 AM
   WBC
   1.8
   1.6
   1.5
   Hct
   27.0
   28.7
   30.1
   Plt
   67
   52
   51
   Cr
   0.7
   0.7
   Glucose
   94
   106
   Other labs: PT / PTT / INR:15.0/28.7/1.3, Lactic Acid:1.0 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Imaging: Prelim read on PA/Lat: no increased mediastinal widening
   Microbiology: Bcx x2 [**4-14**] and [**4-15**]: NGTD
   BAL [**4-13**]: No AFB on prelim smear, AF cx pending, no legionella isolated
   on prelim, PCP pending, viral cx cancelled, DFA for influenza cancelled
   RSV screen cancelled due to lack of cells
   CSF cx: NGTD, gram stain neg
   Bcx x4 [**4-12**]: NGTD
   Assessment and Plan
   65 year old woman with history of CLL now ~25 days s/p FCR intially
   presenting with febrile neutropenia found to have RLL infiltrate and
   neck pain now complicated by hypotension followed by hypoxia and
   continued fevers.
   # Febrile neutropenia.  Most likely source PNA given RLL lobar
   infiltrate.  So far no informative culture or gram stain data. Pt has
   history of partially treated extrapulmonary TB, lobar appearance of CXR
   not really suggestive of reactivated TB.  Patient with continued fevers
   (102 axillary) overnight.
   -Covering broadly for neutropenic CAP with vanc/cefepime/azithromycin
   with flagyl for anaerobes, voriconazole for fungal coverage.  Could
   consider peeling back coverage pending culture results, though would
   continue for now given persistent fevers and relative neutropenia
   -Follow up all cultures, AFB smears negative, but awaiting concentrated
   smear and cultures likely on Monday
   -Tylenol prn fevers, cooling blanket prn
   -Continue neutropenic and negative pressure respiratory isolation for
   r/o TB
   - DFA for influenza negative, will dc droplet isolation, though still
   requires resp isolation as above
   # Hypoxia: Stable and resolving. Likely related to underlying CAP and
   acutely exacerbated by fluid resusitation. Has resolved.  Patient was
   able to tolerate small fluid boluses during fevers with continued sats
   in the mid-high 90s on 2L NC.
   - Continue to follow CXR, has appeared less fluid overloaded, though
   e/o edema on CXR this am.  Pulmonary edema likely from aggressive fluid
   rescusitation. No history of heart failure.
   - Caution with IVF, may bolus as needed but should go first to NIPPV if
   develops further hypoxia.
   # Hypotension: Stable. Likely related to sepsis from unclear source. No
   evidence of blood loss or ischemic cause.  Patient also with some
   question of mediastinal widening on AP film as compared to PA/Lat.  Per
   radiology, recommended repeat PA/Lat which showed no further widening
   and was not concerning for hematoma as no recent
   intervention/procedure.  Pericardial effusion with tamponade is
   possible given hx of TB but not clinically likely.   Lactate continues
   to be normal (1.0 this am) and normal mentation so perfusion adequate.
   - Follow up final read on PA/Lat
   - Can consider TTE on Monday as not able to get one on the weekend.
   - Bolus IVF for decreased UOP, tachycardia or hypotension as has
   responded well, though would be careful given hypoxia and pulmonary
   edema.  Would alternate NS and LR given concern for hyperchloremia.
   # Hx of Extra-pulmonary TB: Patient completed only 6 months of therapy
   so would be at risk for relapse.  Currently without other significant
   constitutional symptoms that had featured prominently before. Would
   expect low probability for pulmonary TB.
   - Continue airborne precautions for now pending AFB concentrated smear
   from bronch on Monday
   - ID recs
   -Azithromycin instead of levo for atypical PNA coverage to avoid TB
   partial treatment.
   # Neck pain: Resolved. Patient developed pain and soreness after being
   in the hospital w/o other sign of meningitis except for fever.  LP
   without evidence of meningitis.  Likely benign muscle ache/spasm.
   - Reduced cevepime from meningitis to PNA doses.
   - Tylenol, percocet prn pain.
   # CLL: ANC >500 so perhaps could be start of trend. Would still be
   immune suppressed due to lymphocyte dysfunction.
   - BMT recs
   - Continue prophy: bactrim and acyclovir
   # Hypothyroidism: Continue current dose levothyroxine
   # FEN: Bowel regimen, Nutrition consult
   ICU Care
   Nutrition: consult for low PO, neutropenic diet
   Glycemic Control:  adequate
   Lines:
   20 Gauge - [**2131-4-13**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: eating
   VAP:  on abx/not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: can consider call out to BMT if stable

2131-04-15 08:52:00 Physician Attending Progress Note
Chief Complaint: resp distress
   24 Hour Events:
 BLOOD CULTURED - At [**2131-4-15**] 01:40 AM
 FEVER - 102.0
F - [**2131-4-14**] 11:00 PM
   Tachycardia with fevers, resolved with defervesence
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2131-4-14**] 10:00 PM
   Cefipime - [**2131-4-15**] 02:00 AM
   Metronidazole - [**2131-4-15**] 02:00 AM
   Vancomycin - [**2131-4-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: fevers, tachycardia, fatigue
   Flowsheet Data as of  [**2131-4-15**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.8
C (98.2
   HR: 104 (87 - 121) bpm
   BP: 102/60(68) {88/46(59) - 118/68(80)} mmHg
   RR: 17 (10 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,150 mL
                                                                  1,388 mL
   PO:
                                                                    830 mL
                                                                    450 mL
   TF:
   IVF:
                                                                  3,320 mL
                                                                    938 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    300 mL
   Urine:
                                                                  1,325 mL
                                                                    300 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,625 mL
                                                                  1,088 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Gen: lying in bed, diaphoretic, complaining of fatigue
   HEENT: dry oropharynx
   CV: tachy RR
   Chest: decreased BS in RLL
   Abd: distended +BS
   Ext: 1+
   Neuro:
   Labs / Radiology
   10.6 g/dL
   51 K/uL
   106 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   13 mg/dL
   109 mEq/L
   136 mEq/L
   30.1 %
   1.5 K/uL
         [image002.jpg]
                             [**2131-4-13**]  03:24 PM
                             [**2131-4-14**]  05:11 AM
                             [**2131-4-15**]  12:37 AM
   WBC
   1.8
   1.6
   1.5
   Hct
   27.0
   28.7
   30.1
   Plt
   67
   52
   51
   Cr
   0.7
   0.7
   Glucose
   94
   106
   Other labs: PT / PTT / INR:15.0/28.7/1.3, Lactic Acid:1.0 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   65 year old woman with CLL s/p recent treatment, now neutropenic with
   fevers of unclear etiology and history notable for probable TB
   lymphadenitis which was treated for 6 months.
   Neutropenic Fever: multiple sources of concern in this neutropenic host
   though PNA is leading candidate.
   All cx have thus far been negative
   RLL PNA: BAL pending
   Hx of TB adenitis, Bal pending (prelim smear neg)
   Meningitis: LP unrevealing
   - Bronch done to eval RLL lesion:   (PCP, [**Name10 (NameIs) 2086**], [**Name11 (NameIs) 2087**], viral,
   bacterial clx)
   - Continue broad coverage Vanco and Cefepime vori, azithro, and flagyl
   (given poor dentition and location of infiltrate concern for aspiration
   Hypoxemia PNA in the RLL, with volume overload and weaning O2 as
   tolerated
   - supportive O2 for now
   - plan for NIPPV if needed
   Hypotension:resolved.
   Tachycardia: in setting of fevers, now improved. Echo in AM pre BMT -
   can look for veg, no evidence of increased cardiac siloutte by plain
   films or on recent CT but can also look for small pericard eff.
   Widened mediastinum
 stable by PA/lat- likely swollen nodes due to
   volume resucitation. Hol doff on repeat CT as just had on [**4-11**].
   H/O TB lymphadenitis: if remians febrile without a source for many more
   days, ? role of repeat node bx
   CLL: s/p recent treatment. Manage per BMT.
   Other issues per ICU Resident Admission Note
   ICU Care
   Nutrition: poor po intake, encourage
   Glycemic Control:  SSRI
   Lines:
   20 Gauge - [**2131-4-13**] 03:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition : possibly to BMT if stable
   Total time spent: 35

2131-04-16 07:00:00 Physician Resident Progress Note
Chief Complaint: 65 year old woman with history of CLL now ~25 days s/p
   FCR intially presenting with febrile neutropenia found to have RLL
   infiltrate and neck pain now complicated by hypotension followed by
   hypoxia.
   24 Hour Events:
 BLOOD CULTURED - At [**2131-4-16**] 01:08 AM
 FEVER - 101.2
F - [**2131-4-15**] 10:00 PM, cultured, tachy with fever
   TTE done yesterday, no pericardial effusion
   ID recs: continue current mgmt
   Micro: AFB prelim smear negative, awaiting concentrated smear results
   to dc respiratory precautions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-4-15**] 08:00 PM
   Voriconazole - [**2131-4-15**] 10:00 PM
   Metronidazole - [**2131-4-16**] 02:00 AM
   Cefipime - [**2131-4-16**] 02:00 AM
   Acyclovir - [**2131-4-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Docusate
   Percocet
   Azithromycin 250PO daily
   Ipratropium
   Acetaminophen
   Prochlorperazine
   Ondansetron
   Bactrim
   Lorazepam
   Levothyroxine
   Allopurinol
   Senna
   Other medications:
   Changes to medical and family history:  None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-16**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.6
C (97.8
   HR: 90 (90 - 111) bpm
   BP: 94/53(63) {90/42(55) - 117/72(77)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,307 mL
                                                                    450 mL
   PO:
                                                                    720 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,587 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    150 mL
   Urine:
                                                                    850 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,457 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% 1-2L
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases), clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: WWP
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   61 K/uL
   10.8 g/dL
   95 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.7 mEq/L
   15 mg/dL
   107 mEq/L
   135 mEq/L
   31.3 %
   2.6 K/uL
        [image002.jpg]
                             [**2131-4-13**]  03:24 PM
                             [**2131-4-14**]  05:11 AM
                             [**2131-4-15**]  12:37 AM
                             [**2131-4-15**]  11:04 PM
   WBC
   1.8
   1.6
   1.5
   2.6
   Hct
   27.0
   28.7
   30.1
   31.3
   Plt
   67
   52
   51
   61
   Cr
   0.7
   0.7
   0.8
   Glucose
   94
   106
   95
   Other labs: PT / PTT / INR:14.3/29.7/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   TTE [**4-15**]: PRELIM READ -- Right ventricular chamber size and free wall
   motion are normal. There are simple atheroma in the aortic root. The
   mitral valve appears structurally normal with trivial mitral
   regurgitation. There is borderline pulmonary artery systolic
   hypertension. There is no pericardial effusion. There are no
   echocardiographic signs of tamponade.
   IMPRESSION: No pericardial effusion and no echo signs of tamponade. If
   clinically indicated should obtain full study by son[**Name (NI) 2139**].
   Assessment and Plan
   65 year old woman with history of CLL now ~25 days s/p FCR intially
   presenting with febrile neutropenia found to have RLL infiltrate and
   neck pain now complicated by hypotension followed by hypoxia and
   continued fevers.
   # Febrile neutropenia.  Most likely source PNA given RLL lobar
   infiltrate.  So far no informative culture or gram stain data. Pt has
   history of partially treated extrapulmonary TB, lobar appearance of CXR
   not really suggestive of reactivated TB.  Patient with continued fevers
   (102 axillary) overnight.
   -Covering broadly for neutropenic CAP with vanc/cefepime/azithromycin
   with flagyl for anaerobes, voriconazole for fungal coverage.  Could
   consider peeling back coverage pending culture results, though would
   continue for now given persistent fevers and relative neutropenia.  ?
   d/c vancomycin given culture data
   -Follow up all cultures, AFB smears negative, but awaiting concentrated
   smear and cultures likely on Monday
   -Tylenol prn fevers, cooling blanket prn
   -Continue neutropenic and negative pressure respiratory isolation for
   r/o TB
   - DFA for influenza negative, will dc droplet isolation, though still
   requires resp isolation as above
   # Hypoxia: Stable and resolving. Likely related to underlying CAP and
   acutely exacerbated by fluid resusitation. Has resolved.  Patient was
   able to tolerate small fluid boluses during fevers with continued sats
   in the mid-high 90s on 2L NC.
   - Continue to follow CXR, has appeared less fluid overloaded, though
   e/o edema on CXR this am.  Pulmonary edema likely from aggressive fluid
   rescusitation. No history of heart failure.
   - Caution with IVF, may bolus as needed but should go first to NIPPV if
   develops further hypoxia.
   # Hypotension: Stable. Likely related to sepsis from unclear source. No
   evidence of blood loss or ischemic cause.  Patient also with some
   question of mediastinal widening on AP film as compared to PA/Lat.  Per
   radiology, recommended repeat PA/Lat which showed no further widening
   and was not concerning for hematoma as no recent
   intervention/procedure.  Pericardial effusion with tamponade is
   possible given hx of TB but not clinically likely.   Lactate continues
   to be normal (1.0 this am) and normal mentation so perfusion adequate.
   Resolved
   - Bolus IVF for decreased UOP, tachycardia or hypotension as has
   responded well, though would be careful given hypoxia and pulmonary
   edema.  Would alternate NS and LR given concern for hyperchloremia.
   # Hx of Extra-pulmonary TB: Patient completed only 6 months of therapy
   so would be at risk for relapse.  Currently without other significant
   constitutional symptoms that had featured prominently before. Would
   expect low probability for pulmonary TB.
   - Continue airborne precautions for now pending AFB concentrated smear
   from bronch, should be done on today
   - ID recs
   -Azithromycin instead of levo for atypical PNA coverage to avoid TB
   partial treatment.
   # Neck pain: Resolved. Patient developed pain and soreness after being
   in the hospital w/o other sign of meningitis except for fever.  LP
   without evidence of meningitis.  Likely benign muscle ache/spasm.
   - Reduced cefepime from meningitis to PNA doses.
   - Tylenol, percocet prn pain.
   # CLL: ANC >500 so perhaps could be start of trend. Would still be
   immune suppressed due to lymphocyte dysfunction.
   - BMT recs
   - Continue prophy: bactrim and acyclovir
   # Hypothyroidism: Continue current dose levothyroxine
   # FEN: Bowel regimen, Nutrition consult appreciated, will receive
   supplements for poor PO intake.  Repleted K and Phos today.  Corrected
   Ca WNL.  IVF boluses as above PRN.
   ICU Care
   Nutrition:  Taking PO,  neutropenic diet
   Glycemic Control:  ISS PRN
   Lines:
   22 Gauge - [**2131-4-15**] 11:30 PM
   Prophylaxis:
   DVT: no SC heparin for low platelets, didn
t tolerate pneumoboots
   Stress ulcer: taking PO, not needed
   VAP:  Not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ? Call out to BMT once off respiratory isolation

2131-04-16 10:22:00 Physician Attending Progress Note
Chief Complaint: Fever in immunocompromised host.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   HPI:
   65 yo woman with CLL, 1 month s/p chemo adm with febrile neutropenia,
   RLL infiltrate, hypotension, hypoxemia. Bronched on arrival to MICU.
   Continued fevers.
   24 Hour Events:
 BLOOD CULTURED - At [**2131-4-16**] 01:08 AM
 FEVER - 101.2
F - [**2131-4-15**] 10:00 PM
   No pericardial effusion.
   [**Year (4 digits) 2086**] neg smear.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2131-4-15**] 10:00 PM
   Metronidazole - [**2131-4-16**] 02:00 AM
   Cefipime - [**2131-4-16**] 02:00 AM
   Acyclovir - [**2131-4-16**] 06:00 AM
   Vancomycin - [**2131-4-16**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-16**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.8
C (98.3
   HR: 89 (88 - 111) bpm
   BP: 115/73(82) {86/42(55) - 117/73(82)} mmHg
   RR: 9 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,307 mL
                                                                    801 mL
   PO:
                                                                    720 mL
                                                                    370 mL
   TF:
   IVF:
                                                                  1,587 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    350 mL
   Urine:
                                                                    850 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,457 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, eating
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): all, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   61 K/uL
   95 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.7 mEq/L
   15 mg/dL
   107 mEq/L
   135 mEq/L
   31.3 %
   2.6 K/uL
        [image002.jpg]
                             [**2131-4-13**]  03:24 PM
                             [**2131-4-14**]  05:11 AM
                             [**2131-4-15**]  12:37 AM
                             [**2131-4-15**]  11:04 PM
   WBC
   1.8
   1.6
   1.5
   2.6
   Hct
   27.0
   28.7
   30.1
   31.3
   Plt
   67
   52
   51
   61
   Cr
   0.7
   0.7
   0.8
   Glucose
   94
   106
   95
   Other labs: PT / PTT / INR:14.3/29.7/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Imaging: Echo: normal EF, mild PAH.
   Microbiology: Cx NGTD blood, CSF, resp viral cx
   Bronch: neg cx, no microorgs.
   Assessment and Plan
   65 year old woman with CLL s/p recent treatment, now neutropenic with
   fevers of unclear etiology and history notable for probable TB
   lymphadenitis which was treated for 6 months.
   Neutropenic Fever: multiple sources of concern in this neutropenic host
   though PNA is leading candidate.
   All cx have thus far been negative
   RLL PNA: BAL pending
   Hx of TB adenitis, Bal pending (prelim smear neg)
   Meningitis: LP unrevealing
   - Bronch done to eval RLL lesion:   (PCP, [**Name10 (NameIs) 2086**], [**Name11 (NameIs) 2087**], viral,
   bacterial clx)
   - Continue broad coverage Vanco and Cefepime vori, azithro, and flagyl
   (given poor dentition and location of infiltrate concern for aspiration
   Hypoxemia PNA in the RLL, with volume overload and weaning O2 as
   tolerated
   - supportive O2 for now
   - plan for NIPPV if needed
   Hypotension:resolved.
   Tachycardia: in setting of fevers, now improved. Echo in AM pre BMT -
   can look for veg, no evidence of increased cardiac siloutte by plain
   films or on recent CT but can also look for small pericard eff.
   Widened mediastinum
 stable by PA/lat- likely swollen nodes due to
   volume resucitation. Hol doff on repeat CT as just had on [**4-11**].
   H/O TB lymphadenitis: if remains febrile without a source for many more
   days, may need repeat node bx to r/o TB or lymphoma
   CLL: s/p recent treatment. Manage per BMT.
   Other issues per ICU Resident Note
   ICU Care
   Nutrition:
   Comments: PO diet but poor intake.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2131-4-15**] 11:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: